US06331538B1
3-Benzyloxy-1-butyl-6-fluoro-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Pyrrolidine (0.04 mL, 0.52 mmol) was added to a solution of 3-benzyloxy-1-butyl-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example O-2, 0.16 g, 0.42 mmol) and triethylamine (0.36 mL, 2.6 mmol) in 20 mL of acetonitrile. The solution was warmed to reflux for 17 hours, cooled, and concentrated to a solid. The solid was dissolved in chloroform washed with 1N HCl, saturated NaHCO3, brine, and dried over magnesium sulfate. The solution was concentrated to give 0.14 g of the title compound as a solid

reactant | Pyrrolidine | 0.52 mmol, 0.04 mL | N1CCCC1 | C4H9N
reactant | 3-benzyloxy-1-butyl-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.42 mmol, 0.16 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)Cl)F)CCCC)=O | C18H17ClFN3O3
reactant | triethylamine | 2.6 mmol, 0.36 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-Benzyloxy-1-butyl-6-fluoro-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.14 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCCC2)F)CCCC)=O | C22H25FN4O3
